US06444668B1
6-(5-Diethoxymethyl-furan-3-yl) -4,4-dimethyl-1,4-dihydro-benzo[d][1.3]oxazin-2-one
Prepared according to procedure B from 4,4-dimethyl 2 oxo-1,4-dihydro 2 H-benzo [d][1,3]oxazine -6-boronic acid and 3-bromo-5-diethoxymethyl furan. A brown gum: 1H NMR (DMSO-d6) δ10.2 (s, 1H), 8.12(s, 1H), 7.54-7.49 (m, 2H), 6.93-6.88(m, 2H), 5.56(s, 1H), 3.60-3.38(m, 4H), 1.67(s ,6H), 1.2-1.14 (m, 6H). MS (ESI) m/z 344 [M−H]−. Anal. Calcd. For C19H23NO5.½ H2O: C, 64.39; H, 6.77; N, 3.95. Found C, 64.90; H, 6.79; N, 3.78.

reactant | 4,4-dimethyl 2 oxo-1,4-dihydro 2 H-benzo [d][1,3]oxazine -6-boronic acid | CC1(C2=C(NC(O1)=O)C=CC(=C2)B(O)O)C | C10H12BNO4
reactant | 3-bromo-5-diethoxymethyl furan | BrC1=COC(=C1)C(OCC)OCC | C9H13BrO3
solvent | H2O | O | H2O
product | 6-(5-Diethoxymethyl-furan-3-yl) -4,4-dimethyl-1,4-dihydro-benzo[d][1.3]oxazin-2-one | C(C)OC(C1=CC(=CO1)C1=CC2=C(NC(OC2(C)C)=O)C=C1)OCC | C19H23NO5
